US08912210B2
Step C: (3S,5S,6R)-3-Amino-5-(2-fluoro-3-methylphenyl)-6-methyl-1-(2,2,2-trifluoroethyl)piperidin-2-one
A mixture of 5-(2-fluoro-3-methylphenyl)-6-methyl-3-nitro-1-(2,2,2-trifluoroethyl)pyridin-2(1H)-one (1.95 g, 5.66 mmol), platinum(IV) oxide (0.643 g, 2.83 mmol), and concentrated aqueous hydrochloric acid solution (12 M, 4.72 mL, 56.6 mmol) in methanol (57 mL) was shaken under 50 psi of hydrogen at 23° C. for 5 h. The catalyst was removed by filtration through Celite® and washed thoroughly with methanol. The filtrate was concentrated, and the residue was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution. The organic layer was washed with brine, dried over sodium sulfate and concentrated. The residue was purified by flash column chromatography on silica gel, eluting with dichloromethane initially, grading to 5% MeOH (basified 0.1% concentrated aqueous ammonium hydroxide solution) in dichloromethane to give the title compound as a racemate. The enantiomers were separated by normal-phase HPLC using a ChiralCel® OD column, eluting with 40% hexane in ethanol (0.1% diethylamine used as a modifier) to afford the title compound as the second enantiomer to elute. MS: m/z=319.2 (M+1).

reactant | 5-(2-fluoro-3-methylphenyl)-6-methyl-3-nitro-1-(2,2,2-trifluoroethyl)pyridin-2(1H)-one | 5.66 mmol, 1.95 g | FC1=C(C=CC=C1C)C=1C=C(C(N(C1C)CC(F)(F)F)=O)[N+](=O)[O-] | C15H12F4N2O3
reactant | hydrochloric acid | 56.6 mmol, 12 M, 4.72 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 57 mL | CO | CH4O
catalyst | platinum(IV) oxide | 2.83 mmol, 0.643 g | [Pt](=O)=O
product | (3S,5S,6R)-3-Amino-5-(2-fluoro-3-methylphenyl)-6-methyl-1-(2,2,2-trifluoroethyl)piperidin-2-one | N[C@@H]1C(N([C@@H]([C@@H](C1)C1=C(C(=CC=C1)C)F)C)CC(F)(F)F)=O | C15H18F4N2O
